US08633134B2
Step 3: Synthesis of 2-Chloro-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-benzaldehyde Oxime
To a solution of 2-Chloro-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-benzaldehyde (i.e. the product of Step 2, 1.20 g) in methanol (5 mL) was added hydroxylamine hydrochloride (296 mg) and a catalytic amount of concentrated hydrochloric acid. The mixture was stirred at 70° C. for 3 h and concentrated in vacuum. Water was added and the mixture was extracted with ethyl acetate. Combined organic layers were dried (Na2SO4) and evaporated to obtain the title compound (1.2 g, 97%).

reactant | 2-Chloro-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-benzaldehyde | ClC1=C(C=O)C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H9Cl3F3NO2
reactant | hydroxylamine hydrochloride | 296 mg | Cl.NO
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 2-Chloro-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-benzaldehyde Oxime | 1.2 g, 97% | ClC1=C(C=NO)C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H10Cl3F3N2O2
